US04526788
A mixture of 30.0 g of 1,4-dihydroxy-5,8-bis[[2-(2-hydroxyethylamino)ethyl]amino]anthraquinone dihydrochloride (prepared as described in Example 24 of U.S. Pat. No. 4,197,249) and 300 ml of methanol was chilled in an ice bath in a Dewar flask. The mixture was saturated with ammonia gas and was allowed to stand at 0° C. for one hour with the continuous slow addition of ammonia gas and with periodic stirring. The solid was collected by filtration and washed by slurrying with five 150 ml portions of methanol saturated with ammonia gas to give 22.9 g of 1,4-dihydroxy-5,8-bis[[2-(2-hydroxyethylamino)ethyl]amino]anthraquinone as blue-black micro rods, mp 175°-178° C.

reactant | 1,4-dihydroxy-5,8-bis[[2-(2-hydroxyethylamino)ethyl]amino]anthraquinone dihydrochloride | 30.0 g | Cl.Cl.OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCNCCO)NCCNCCO)=O)O
reactant | ammonia | N | H3N
solvent | methanol | 300 ml | CO | CH4O
product | 1,4-dihydroxy-5,8-bis[[2-(2-hydroxyethylamino)ethyl]amino]anthraquinone | 22.9 g | OC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NCCNCCO)NCCNCCO)=O)O | C22H28N4O6
